US05198449
N-[(4-Fluorophenyl)methyl]-N-[(4-fluorophenyl)[1-[(methylamino)carbonyl]-4-piperidinyl]methyl]-N'-methylurea
A solution of 2.06 g (6.5 mmol) of α-(4-fluorophenyl)-N-[(4-fluorophenyl)methyl]-4-piperidinemethanamine and 3.1 g (54.4 mmol) of methyl isocyanate in 300 mL of CH2Cl2 was stirred at room temperature for 18 h. The solvent was removed in vacuo to give a white solid. The solid was recrystallized from methylene chloride/ether to give 2.65 g (94.8%) of a white, crystalline solid containing 0.15 mole of CH2Cl2, mp 120°-162° C.

reactant | α-(4-fluorophenyl)-N-[(4-fluorophenyl)methyl]-4-piperidinemethanamine | 6.5 mmol, 2.06 g | FC1=CC=C(C=C1)C(NCC1=CC=C(C=C1)F)C1CCNCC1 | C19H22F2N2
reactant | methyl isocyanate | 54.4 mmol, 3.1 g | CN=C=O | C2H3NO
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.15 mole | C(Cl)Cl | CH2Cl2
product | N-[(4-Fluorophenyl)methyl]-N-[(4-fluorophenyl)[1-[(methylamino)carbonyl]-4-piperidinyl]methyl]-N'-methylurea | FC1=CC=C(C=C1)CN(C(=O)NC)C(C1CCN(CC1)C(=O)NC)C1=CC=C(C=C1)F | C23H28F2N4O2
